US07465731B2
To a solution of tert-butyl [(3R)-1-(cyclopentylmethyl)-3-pyrrolidinyl](5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridinyl)carbamate (179 mg, 0.35 mmol) in MeOH (1 mL) was added hydrogen chloride methanol reagent 10 (3 mL, Tokyo Kasei), and the mixture was stirred at ambient temperature for 1 hr. The solvent was removed in vacuo and the residue was dissolved in dioxane (1 mL). To the reaction mixture was added 4N HCl in dioxane (4 mL) and stirred for 1 hr at ambient temperature. To the reaction mixture was added MeCN and the solvent was removed in vacuo. Obtained colorless solid was triturated with MeCN to give (2E)-3-(6-{[(3R)-1-(cyclopentylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-N-hydroxyacrylamide dihydrochloride (115 mg, 85%) as colorless powder.

reactant | tert-butyl [(3R)-1-(cyclopentylmethyl)-3-pyrrolidinyl](5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridinyl)carbamate | 0.35 mmol, 179 mg | C1(CCCC1)CN1C[C@@H](CC1)N(C(OC(C)(C)C)=O)C1=NC=C(C=C1)\C=C\C(NOC1OCCCC1)=O | C28H42N4O5
reactant | hydrogen chloride methanol | CO.Cl
solvent | MeOH | 1 mL | CO | CH4O
product | (2E)-3-(6-{[(3R)-1-(cyclopentylmethyl)-3-pyrrolidinyl]amino}-3-pyridinyl)-N-hydroxyacrylamide dihydrochloride | 115 mg, 85% | Cl.Cl.C1(CCCC1)CN1C[C@@H](CC1)NC1=CC=C(C=N1)/C=C/C(=O)NO | InChI=1S/C18H26N4O2.2ClH/c23-18(21-24)8-6-14-5-7-17(19-11-14)20-16-9-10-22(13-16)12-15-3-1-2-4-15;;/h5-8,11,15-16,24H,1-4,9-10,12-13H2,(H,19,20)(H,21,23);2*1H/b8-6+;;/t16-;;/m1../s1
